US06180631B2
2-Amino-6-benzylamino-3-nitropyridine (25 g, 0.10 mol) was hydrogenated under 5.5 bar of H2 in the presence of 10 g of Raney-Ni in 400 mL of dioxane at 60 C. After 2 hours the reaction mixture was cooled to room temperature, filtrated and 4-hydroxy phenylglyoxal was added and stirred for 2 hours under an argon atmosphere. The suspension was then diluted with water, the solid was collected by filtration, washed with water, recrystallized from 2-propanol, and dried at 50 C. in vacuo to give 6-benzylamino-3-(4-hydroxyphenyl)-5-azaquinoxaline (8 g, 24.4%, m.p. 271-273 C.).

reactant | 2-Amino-6-benzylamino-3-nitropyridine | 0.10 mol, 25 g | NC1=NC(=CC=C1[N+](=O)[O-])NCC1=CC=CC=C1 | C12H12N4O2
reactant | dioxane | 400 mL | O1CCOCC1 | C4H8O2
catalyst | Ni | [Ni] | Ni
product | 6-benzylamino-3-(4-hydroxyphenyl)-5-azaquinoxaline | 8 g, 24.4% | C(C1=CC=CC=C1)NC=1N=C2N=C(C=NC2=CC1)C1=CC=C(C=C1)O | C20H16N4O
